US06271410B1
Preparation of Isoamyl Cyanoacetate
Using the procedure of Example 1, cyanoacetate acid (85.5 g; 1.00 mol) and isoamyl alcohol (176 g; 2 mol) are reacted in the presence of sulfuric acid (0.49 g; 0.005 mol). Isoamyl cyanoacetate (bp 133/20 mm of Hg) is recovered as a clear liquid. The yield was 150 g (97% of theoretical) and its purity was >99% (GC assay).

reactant | cyanoacetate | 1.00 mol, 85.5 g | C(#N)CC(=O)[O-]
reactant | isoamyl alcohol | 2 mol, 176 g | C(CC(C)C)O | C5H12O
reactant | sulfuric acid | 0.005 mol, 0.49 g | S(O)(O)(=O)=O | H2O4S
product | Isoamyl Cyanoacetate | C(#N)CC(=O)OCCC(C)C | C8H13NO2
